US07915281B2
A mixture of 8-(ethoxymethyl)-5,6-dimethyl-7-[(3-pyridin-3-ylisoxazol-5-yl)methyl]-7H-imidazo[4,5-c]tetraazolo[1,5-a]pyridine (0.1712 g, 0.423 mmol) and triphenylphosphine (0.120 g, 0.466 mmol) in toluene (2 mL) was heated at reflux for five days. The solvent was removed and the resulting brown solvent was dissolved in 1 M hydrogen chloride in methanol (5 mL). The solution was heated at reflux for four hours and then concentrated to an oil. The oil was dissolved in hot water. A precipitate formed and was isolated by filtration. The filtrate was washed five times with dichloromethane and then adjusted to pH 14 with 50% (w/w) aqueous sodium hydroxide, resulting in a brown precipitate. The mixture was extracted with several portions of dichloromethane that were combined, washed with water and brine, dried over magnesium sulfate, filtered, and concentrated. The resulting white solid was triturated with diethyl ether and dried to yield 2-(ethoxymethyl)-6,7-dimethyl-1-[(3-pyridin-3-ylisoxazol-5-yl)methyl]-1H-imidazo[4,5-c]pyridin-4-amine as a white powder, mp 189.0-191.0° C.

reactant | 8-(ethoxymethyl)-5,6-dimethyl-7-[(3-pyridin-3-ylisoxazol-5-yl)methyl]-7H-imidazo[4,5-c]tetraazolo[1,5-a]pyridine | 0.423 mmol, 0.1712 g | C(C)OCC=1N(C2=C(C=3N(C(=C2C)C)N=NN3)N1)CC1=CC(=NO1)C=1C=NC=CC1 | C20H20N8O2
reactant | triphenylphosphine | 0.466 mmol, 0.120 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | toluene | 2 mL | C1(=CC=CC=C1)C | C7H8
product | 2-(ethoxymethyl)-6,7-dimethyl-1-[(3-pyridin-3-ylisoxazol-5-yl)methyl]-1H-imidazo[4,5-c]pyridin-4-amine | C(C)OCC=1N(C2=C(C(=NC(=C2C)C)N)N1)CC1=CC(=NO1)C=1C=NC=CC1 | C20H22N6O2
